data/mechanism_extracts/OrgLett/10.1021_acs.orglett.4c04426.json
{"doi": "10.1021_acs.orglett.4c04426", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical cyclizative dicarboxylation of o-vinylphenyl isocyanides with CO2 to give 3-substituted 2-oxoindolin-3-acetic acids in an undivided cell with sacrificial Mg anode", "mechanism_family": ["radical_cathodic", "sacrificial_anode", "direct_SET"], "electrochemical_role": "Cathodic reduction: either the o-vinylphenyl isocyanide alkene (path A) or CO2 (path B) is reduced at the cathode to generate a carbon-centered radical anion that initiates carboxylation; Mg anode is sacrificial", "key_intermediates": [{"name": "benzylic radical anion of o-vinylphenyl isocyanide (1a•-, path A)", "smiles": null, "role": "reactive"}, {"name": "CO2 radical anion (·CO2-, path B)", "smiles": "[O-]C(=O)[O]", "role": "reactive"}, {"name": "alkyl radical 1a' after CO2 addition to alkene", "smiles": null, "role": "transient"}, {"name": "dicarboxylated isocyanide intermediate (bis-carboxylate with pendant isocyanide)", "smiles": null, "role": "reactive"}, {"name": "seven-membered cyclic intermediate prior to 1,3-O→N acyl transfer", "smiles": null, "role": "transient"}, {"name": "2-oxoindolin-3-acetic acid product 2a", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode delivers one electron to either the vinyl arene (path A, favored) or CO2 (path B) to give a radical anion; this radical adds CO2 (or adds to the alkene), then a second cathodic electron transfer and protonation by H2O furnishes a dicarboxylated isocyanide that undergoes intramolecular cyclization onto the isocyanide and a 1,3-O→N acyl transfer to yield the 2-oxoindolin-3-acetic acid, while the Mg anode is oxidized as sacrificial counter-electrode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; starting material 1a recovered in 86%, indicating a radical pathway"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Only trace amount of product 2a observed; 2a isolated in 22% and a related product 3a in 21%, supporting radical intermediacy"}, {"name": "cyclic voltammetry of CO2 and styrene", "smiles": null, "purpose": "redox_probe", "observation": "Reduction potentials are similar (·CO2-/CO2 E1/2 = -2.21 V; styrene E1/2 = -2.58 V vs SCE in DMF), so either substrate or CO2 could be reduced first, supporting two plausible pathways"}, {"name": "control without CO2", "smiles": null, "purpose": "intermediate_trap", "observation": "Reduced (non-carboxylated) product observed, consistent with path A involving initial cathodic reduction of the alkene"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two mechanistic pathways are proposed; path A (cathodic reduction of the o-vinylphenyl isocyanide alkene first, followed by CO2 addition) is favored because in the absence of CO2 the reduced (non-carboxylated) substrate is observed. Path B (initial cathodic reduction of CO2 to ·CO2-, then addition to the alkene) cannot be ruled out. Regioselectivity for the five-membered oxindole is rationalized by preferential formation of a seven-membered ring intermediate over an eight-membered ring prior to 1,3-O→N acyl transfer."}
